US04431822
To a solution of 2-chloro-4-fluoro-5-nitrophenol (19.1 g) in acetonitrile (100 ml), there was added anhydrous potassium carbonate (8 g). After stirring at room temperature for several minutes, isopropyl iodide (25 g) was added thereto, and the resultant mixture was heated under reflux for 3 hours. After being allowed to cool to room temperature, water was added thereto, and the reaction mixture was extracted with ether. The ether extract was washed with a 5% aqueous sodium hydroxide solution and water in this order, dried over anhydrous magnesium sulfate and subjected to filtration. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethanol to obtain 13.5 g of 4-chloro-2-fluoro-5-isopropoxynitrobenzene. M.P., 61.3°-62.4° C.

reactant | 2-chloro-4-fluoro-5-nitrophenol | 19.1 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 25 g | C(C)(C)I | C3H7I
reactant | water | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-chloro-2-fluoro-5-isopropoxynitrobenzene | 13.5 g | ClC1=CC(=C(C=C1OC(C)C)[N+](=O)[O-])F | C9H9ClFNO3
